US04658042
When conducting the concentration of aqueous solutions of maleic acid (maleic acid content: 28 wt%), which were obtained by absorbing in water gaseous reaction products, formed by catalytic oxidation of benzene or a spent gas from the production of phthalic anhydride formed by catalytic oxidation of o-xylene, at charge rates of 3.3 m3 /hr in a falling film evaporator at a temperature of 70° C. and further conducting the concentration and dehydration of the preconcentrated aqueous solutions in a rotary film evaporator at a temperature of 140°-150° C., 35 wt% aqueous solution of hydrogen peroxide was continuously added at a rate of 28 liter/hr to the aqueous solutions at ambient temperature. In these cases, even after seven days continuous operations, formation of resinous or gelatinous materials was not observed at all during the concentration and dehydration operations, and formation of only a trace amount of fumaric acid was observed.

reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
